US08540904B2
2-aminophenol (21.8 g (0.20 mol)) was dissolved in 944 g of DMF, thereto was added 40 mL of 5 mol/L aqueous sodium hydroxide solution (equivalent to 0.20 mol of sodium hydroxide), the resulting mixture was stirred at room temperature for 30 minutes, and then thereto was added a solution obtained by dissolving 50.9 g (0.20 mol) of the obtained S,S′-dimethyl-N-(2-benzothiazolyl)carbonimidodithioate in 1416 g of DMF. The resulting mixture was then heated to 153° C., refluxed under a nitrogen atmosphere for 6 hours, and then cooled to room temperature, and the reaction liquid was added dropwise in 2000 g of water. A precipitate was filtered off, washed with water, and dried to obtain 30.0 g of 2-(2-benzothiazolylamino)benzoxazole (L5: see Table 1 below). The yield was 56.1% based on 2-aminophenol.

reactant | 2-aminophenol | 0.20 mol, 21.8 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydroxide | 0.20 mol, 5 mol/L, 40 mL | [OH-].[Na+]
reactant | S,S′-dimethyl-N-(2-benzothiazolyl)carbonimidodithioate | 0.20 mol, 50.9 g | C[SH-]C(=NC=1SC2=C(N1)C=CC=C2)[SH-]C
solvent | DMF | 944 g | CN(C)C=O | C3H7NO
solvent | DMF | 1416 g | CN(C)C=O | C3H7NO
solvent | water | 2000 g | O | H2O
product | 2-(2-benzothiazolylamino)benzoxazole | 30.0 g, yield was 56.1% | S1C(=NC2=C1C=CC=C2)NC=2OC1=C(N2)C=CC=C1 | C14H9N3OS
